US07452893B2
To a solution of cis-4-{[(tert-butoxycarbonyl)amino]methyl}-cyclohexanecarboxylic acid (18.53 g, 72.0 mmol) and N-methylpiperidine (21.9 ml, 17.8 g, 180 mmol) in methylene chloride (360 ml) under nitrogen cooled in an ice-bath was adde dropwise methyl chloroformate (6.13 ml, 7.48 g, 79.2 mmol). The solution was stirred 15 minutes with cooling, and O,N-dimethylhydroxylamine hydrochloride (8.43 g, 86.4 mmol) was added. The mixture was stirred 18 hours while warming from ice-bath temperature to ambient temperature. The mixture was washed with 10% citric acid solution (100 ml), saturated sodium carbonate solution (100 ml), water (100 ml), and brine (100 ml), dried (sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give crude product (15.30 g, 71%) as a yellow oil. The crude product was purified by flash column chromatography on silica gel, eluting with a gradient of 50:50 to 75:25 ethyl acetate/hexane to give tert-butyl [(cis-4-{[methoxy(methyl)amino]carbonyl}cyclohexyl)methyl]carbamate (13.76 g, 64%) as a pale yellow oil. 1H NMR (CDCl3) 4.61 (1H, br s), 3.68 (3H, s), 3.17 (3H, s), 3.11 (2H, t, J 6.5 Hz), 2.79 (1H, m), 1.75 (3H, m), 1.68-1.52 (6H, m), 1.44 (9H, s).

reactant | cis-4-{[(tert-butoxycarbonyl)amino]methyl}-cyclohexanecarboxylic acid | 72.0 mmol, 18.53 g | C(C)(C)(C)OC(=O)NC[C@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | N-methylpiperidine | 180 mmol, 21.9 ml, 17.8 g | CN1CCCCC1 | C6H13N
reactant | methyl chloroformate | 79.2 mmol, 6.13 ml, 7.48 g | ClC(=O)OC | C2H3ClO2
reactant | O,N-dimethylhydroxylamine hydrochloride | 86.4 mmol, 8.43 g | Cl.CONC
solvent | methylene chloride | 360 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [(cis-4-{[methoxy(methyl)amino]carbonyl}cyclohexyl)methyl]carbamate | 13.76 g, 64% | CON(C(=O)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O)C | C15H28N2O4
